US07632838B2
2-[4-(2-naphthylsulfonyl)piperidin-1-yl]-3-nitropyridine
Using the procedure from Example 7A, Step 7E, 4-(2-naphthylsulfonyl)piperidine (130 mg, 0.51 mmol) was reacted with 2-chloro-3-nitropyridine (158 mg, 1.0 mmol) to afford the title compound (148 mg), a yellow solid, in 73% yield.

reactant | 4-(2-naphthylsulfonyl)piperidine | 0.51 mmol, 130 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCNCC1 | C15H17NO2S
reactant | 2-chloro-3-nitropyridine | 1.0 mmol, 158 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
product | 2-[4-(2-naphthylsulfonyl)piperidin-1-yl]-3-nitropyridine | 148 mg, 73% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-] | C20H19N3O4S
